US08895582B2
To a solution of (S)-4-(tert-butoxycarbonylamino)-5-(tert-butyldimethylsilyloxy)-2,2-dimethylpentanoic acid (2.5 g, 6.7 mmol) and TEA (1.9 mL, 13.4 mmol) in THF (50 mL) was added isobutyl chloroformate (1.1 mL, 8.04 mmol) at 0-5° C. The reaction mixture was stirred at 0-5° C. for 15 min and filtered. To the filtrate was added a suspension of NaBH4 (0.5 g, 13.4 mmol) in water (5 mL) at 0-5° C. The reaction mixture was stirred at 0-5° C. for 30 min, quenched with saturated NH4Cl solution, and extracted with EtOAc (200 mL). The organic layer was washed with water and brine, dried over Na2SO4, filtered, and concentrated. The residue was purified on silica gel column using a mixture of EtOAc and hexanes to give (S)-tert-butyl 1-(tert-butyldimethylsilyloxy)-5-hydroxy-4,4-dimethylpentan-2-ylcarbamate (2.0 g, 83.1%). LRMS (M+H+-Boc) m/z 262.2.

reactant | (S)-4-(tert-butoxycarbonylamino)-5-(tert-butyldimethylsilyloxy)-2,2-dimethylpentanoic acid | 6.7 mmol, 2.5 g | C(C)(C)(C)OC(=O)N[C@@H](CC(C(=O)O)(C)C)CO[Si](C)(C)C(C)(C)C | C18H37NO5Si
reactant | isobutyl chloroformate | 8.04 mmol, 1.1 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | NaBH4 | 13.4 mmol, 0.5 g | [BH4-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | (S)-tert-butyl 1-(tert-butyldimethylsilyloxy)-5-hydroxy-4,4-dimethylpentan-2-ylcarbamate | 2.0 g, 83.1% | [Si](C)(C)(C(C)(C)C)OC[C@H](CC(CO)(C)C)NC(OC(C)(C)C)=O | C18H39NO4Si
